US08278316B2
6-(4-ethylphenyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
A mixture of 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-pyrimidin-4(3H)-one Part A of Procedure 11 (11 mg, 0.03 mmol), 4-ethylphenylboronic acid (7.6 mg, 0.05 mmol), potassium phosphate tribasic (21.57 mg, 0.102 mmol), and PalladiumTetrakis (4 mg, 3.39 μmol) in DMF (0.5 mL) was stirred at 90° C. overnight. The reaction was diluted with CH2Cl2, filtered, and concentrated. The crude was purified using HPLC (Phen Luna Axia C18 5μ 10:90:0.1 to 90:10:0.1 MeOH—H2O-TFA) to afford the desired product 6-(4-ethylphenyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one M-1 (9.93 mg, 0.02 mmol, 69.1% yield) as a light yellow solid. LC/MS 395 (M+H)+, tR 0.95 min (method 5). 1H NMR (500 MHz, CHLOROFORM-d) d ppm 8.25 (1H, s), 7.93 (2H, d, J=8.32 Hz), 7.34 (2H, d, J=8.32 Hz), 7.02 (1H, d), 6.91-6.96 (3H, m), 3.90 (3H, s), 3.89 (2H, s), 2.74 (2H, q), 1.38 (6H, s), 1.30 (3H, t, J=7.63 Hz)

reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
reactant | 4-ethylphenylboronic acid | 0.05 mmol, 7.6 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | potassium phosphate tribasic | 0.102 mmol, 21.57 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PalladiumTetrakis | 3.39 μmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-ethylphenyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 0.02 mmol, 9.93 mg, 69.1% yield | C(C)C1=CC=C(C=C1)C1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C23H26N2O4
